US04002673
35 g of 2-nitro-N-allylaniline in 400 ml of methanol are hydrogenated in the presence of 1.5 g of the catalyst described in Example 6, at 75° C and 100-120 bars of hydrogen, for 1.5 hours, to give N-allyl-o-phenylenediamine. The solution which has been freed from the catalyst by filtration is distilled.

reactant | 2-nitro-N-allylaniline | 35 g | [N+](=O)([O-])C1=C(NCC=C)C=CC=C1 | C9H10N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
product | N-allyl-o-phenylenediamine | C(C=C)NC1=C(C=CC=C1)N | C9H12N2
